US05674886
26.70 Grams of potassium tert-butoxide was dissolved in 100 ml of anhydrous dimethylsulfoxide and 20.00 g of 4-amino-4H-1,2,4-triazole was added thereto, followed by stirring for 2 hours at room temperature. Next, 50 ml of an anhydrous dimethylsulfoxide solution containing 11.00 g of 5-fluorobenzofurazane was added dropwise to the solution over a period of 20 minutes and then the mixture was stirred for 15 minutes. The reaction mixture was poured into 500 ml of water and 500 g of ice and then washed with 200 ml of ethyl acetate. The solution was then adjusted to have pH of 7.0 with 1N hydrochloric acid to give crystals. The crystals were collected by filtration, and the remaining mother liquid was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the crude crystals thus obtained were recrystallized from ethanol. These were combined with the previously obtained crystals to give 12.49 g of 5-[(4H-1,2,4-triazol-4-yl)amino]benzofurazane.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-amino-4H-1,2,4-triazole | 20.00 g | NN1C=NN=C1 | C2H4N4
reactant | 5-fluorobenzofurazane | 11.00 g | FC=1C=CC=2C(=NON2)C1 | C6H3FN2O
reactant | water | 500 ml | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 5-[(4H-1,2,4-triazol-4-yl)amino]benzofurazane | 12.49 g | N=1N=CN(C1)NC=1C=CC=2C(=NON2)C1 | C8H6N6O
